US05863949
To a solution of D-valine benzyl ester hydrochloride (2.4 grams, 10 mmol) and triethylamine (2.5 grams, 3.5 mL, 25 mmol) in water (50 mL) and 1,4-dioxane (50 mL) is added 4-methoxybenzenesulfonyl chloride (2.3 grams, 11 mmol). The mixture was stirred at room temperature for 1 hour and then most of the solvent was removed by evaporation under vacuum. The mixture was diluted with ethyl acetate and was washed successively with dilute hydrochloric acid solution, water and brine. The organic solution was dried over magnesium sulfate and concentrated to leave N-(4-methoxybenzenesulfonyl)-D-valine benzyl ester as a white solid, 3.6 grams (97%); m.p. 92°-94° C.

reactant | D-valine benzyl ester hydrochloride | 10 mmol, 2.4 grams | Cl.C(C1=CC=CC=C1)OC([C@H](N)C(C)C)=O
reactant | triethylamine | 25 mmol, 3.5 mL, 2.5 grams | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 11 mmol, 2.3 grams | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(4-methoxybenzenesulfonyl)-D-valine benzyl ester | C(C1=CC=CC=C1)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC)C(C)C)=O | C19H23NO5S
